US05525742
Chart A. Step A-2. A stirred solution of 5-chloro-1,3-phenylenediamine (A-1, X is Cl, 1.93 g, 13.5 mmol) in 55 mL of dichloromethane is cooled to 0° C. and di-tert-butyl dicarbonate (2.96 g, 13.5 mmol) is added. The reaction mixture is stirred at 20°-25° C. for 5 days and then concentrated. The residue is purified by medium pressure liquid chromatography using 25% ethyl acetate in hexane to afford 2.20 g of 3-amino-5-chlorophenylcarbamic acid, 1,1-dimethylethyl ester. (A-2) mp 85°-87 ° C.; IR (mull) 3439, 3357, 3328, 2926, 1691, 1613, 1589, 1524, 1475, 1438, 1391, 1366, 1311, 1274, 1240, 1159, 851 cm-1 ; 1H NMR (CDCl3) δ6.77 (bs, 1 H), 6.64 (m, 1 H), 6.39 (bs, 1 H), 6.34 (m, 1 H), 3.73 (bs, 2 H), 1.50 (s, 9 H); 13C NMR (CDCl3) δ152.1, 147.8, 139.9, 134.8, 109.4, 108.2, 102.6, 80.5, 28.2; Analysis calculated for C11H15CIN2O2 : C, 54.44; H, 6.23; N, 11.54; Cl, 14.61. Found: C, 54.27; H, 6.50; N, 10.96; Cl, 13.99.

reactant | 5-chloro-1,3-phenylenediamine | 13.5 mmol, 1.93 g | ClC=1C=C(C=C(C1)N)N | C6H7ClN2
reactant | di-tert-butyl dicarbonate | 13.5 mmol, 2.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | 3-amino-5-chlorophenylcarbamic acid, 1,1-dimethylethyl ester | 2.20 g | NC=1C=C(C=C(C1)Cl)NC(OC(C)(C)C)=O | C11H15ClN2O2
